2165-03-01 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2165-2-28**] 08:20 PM
 FEVER - 104.4
F - [**2165-2-28**] 08:00 PM
   -Episode of chest pain in setting of temp 104.4 and systolic BP in low
   80's. ECG with increase in anterior ST elevations and lateral
   depressions. Cards [**Name (NI) 420**], recommend TEE as scheduled in AM
   Allergies:
   Penicillins
   Rash; Shortness
   Shellfish
   Unknown; Shortn
   Last dose of Antibiotics:
   Vancomycin - [**2165-2-28**] 11:00 PM
   Gentamicin - [**2165-3-1**] 01:26 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2165-2-28**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Musculoskeletal: Foot swelling
   Neurologic: Headache
   Flowsheet Data as of  [**2165-3-1**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 40.2
C (104.4
   Tcurrent: 38.1
C (100.5
   HR: 78 (70 - 119) bpm
   BP: 88/31(45) {82/26(41) - 102/42(51)} mmHg
   RR: 21 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    190 mL
                                                                    256 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                    160 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    190 mL
                                                                    256 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (Murmur: Systolic), Murmur throughout precordium
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Flat
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   83 K/uL
   10.5 g/dL
   93 mg/dL
   13.6 mg/dL
   25 mEq/L
   4.6 mEq/L
   88 mg/dL
   96 mEq/L
   137 mEq/L
   33.9 %
   4.1 K/uL
        [image002.jpg]
                             [**2165-3-1**]  03:33 AM
   WBC
   4.1
   Hct
   33.9
   Plt
   83
   Cr
   13.6
   TropT
   0.17
   Glucose
   93
   Other labs: PT / PTT / INR:14.9/31.1/1.3, CK / CKMB /
   Troponin-T:149/6/0.17, Differential-Neuts:76.0 %, Lymph:18.5 %,
   Mono:4.7 %, Eos:0.5 %, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:6.9 mg/dL
   Imaging: [**2-28**] CXR:  No acute cardiopulmonary abnormality
   [**2-28**] TTE: The left atrium is mildly dilated. There is mild symmetric
   left ventricular hypertrophy. The left ventricular cavity is moderately
   dilated. Overall left ventricular systolic function is normal (LVEF
   60%). [Intrinsic left ventricular systolic function is likely depressed
   given the severity of valvular regurgitation.] Right ventricular
   chamber size and free wall motion are normal. The aortic root is mildly
   dilated at the sinus level. A bioprosthetic aortic valve prosthesis is
   present. The prosthetic aortic valve leaflets are thickened. The
   transaortic gradient is higher than expected for this type of
   prosthesis. No definite masses or vegetations are seen on the aortic
   valve. The aortic regurgitation vena contracta is >0.6cm. Severe (4+)
   aortic regurgitation is seen. The aortic regurgitation jet is
   eccentric, directed toward the anterior mitral leaflet. The mitral
   valve leaflets are mildly thickened. There is no mitral valve prolapse.
   No mass or vegetation is seen on the mitral valve. Mild to moderate
   ([**1-19**]+) mitral regurgitation is seen. There is borderline pulmonary
   artery systolic hypertension. There is no pericardial effusion.
   Compared with the findings of the prior study (images reviewed) of [**2163-9-14**], the aortic regurgitation is fiurther increased, and the
   bioprosthetic leaflets appear thicker, although no definite vegetation
   is evident
   Microbiology: [**2-28**]: [**3-22**] BCx positive for GPC in pairs/chains
   Assessment and Plan: 34y/o M with a PMH of ESRD secondary to
   glomerulonephritis on HD awaiting transplant, history of recurrent MSSA
   endocarditis on chronic suppressive cephalexin therapy presenting with
   fever, chest pain with associated ECG changes following a recent
   endovascular procedure.
   # Fever/CP
 Multiple blood cultures already returning positive for
   GPC
s in pairs/chains. Fevers to > [**Age over 90 **] yesterday. Concerning for
   recurrent bacteremia [**2-19**] recurrent seeding by infected AV fistula. TTE
   negative for vegetations.
   - Will evaluate with TEE today for valvular vegetations, abscesses, or
   signs of dehiscence of surgically altered coronary anatomy.
   - Will continue vancomycin & gentamicin for empiric coverage
   - Gent trough 20 hrs post dose, goal level: 2
   - Evaluate L AVF and vascular flow in arm by Ultrasound in AM
   - Blood cultures so far showing GPC
   - follow on telemetry
   - ID consultation
   # Chest pain: With ECG changes and cardiac enzyme elevation, concern
   for ischemic injury. Less likely acute atheromatous plaque rupture,
   given prior negative workup and young age, per cards. ECG changes may
   also be consistent with loss of integrity of aortic valve or disruption
   of coronary (LM).
   - Cycle CE, expecting elevated troponins in setting of ESRD
   - C/w ASA, statin
   - telemetry
   - Cardiac surgery made aware of patient, no formal consult requested at
   this time
   - Will attempt to coordinate multi-service meeting today (cards, CSurg,
   ID, renal) to discuss therapeutic strategies
   # Hypotension: Hypotensive at baseline. Diastolic BP in 20-30
   overnight, would not give pressors given severe AI and potentially for
   worsening backflow with increased peripheral resistance.
   - will monitor BP
   - holding labetaolol and lisinopril
   # ESRD on HD:
   - continue home meds
   - renal recs appreciated
   # Anemia: from ESRD
   - monitor hct
   # FEN: NPO for TEE
   # PPx: SQ hep TID
   # Communication with HCP: [**Name (NI) **] [**Name (NI) 4239**] h [**Telephone/Fax (1) 11581**], c [**Telephone/Fax (1) 11582**]
   # full code
   # PIV and AV fistula, although fistula likely seeded with bacteria and
   should not be used. Will discuss further vascular access with IR
   # ICU for now
   # Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-2-28**] 05:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-03-02 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2165-3-1**] 09:45 AM
   to assess left AV fistula
 TRANS ESOPHAGEAL ECHO - At [**2165-3-1**] 12:07 PM
   [**3-1**]:
   - Fistula u/s:  1) Non-occlusive thrombus seen within the left basilic
   vein within the left forearm. No discrete subcutaneous fluid collection
   identified. 2) Area of stenosis in the AV fistula seen in the mid upper
   arm.
   - Has two PIV, access will be issue (PICC, temp HD line?)
   - BPs consistently 80/40, Hct 33 --> 26 but asymptomatic. Getting IVF
   and PO diet
   - Renal: Okay to do HD through fistula tomorrow, not infected
   - 3/3 bottles from ED now + for enterococcus, [**Last Name (un) **] to Amp. Given PCN
   allergy and last Keflex yesterday morning, undergoing Amp
   desensitization today. Will check Gent trough in AM pre HD and give
   60mg after HD if trough <1. Will start Ampicillin 2G q12h after HD
   tomorrow
   - CT [**Doctor First Name 458**]: Will need Redo/Redo AVR with Dr. [**Last Name (STitle) 5648**] after
   antibiotic treatment.
   - CT abd/pelvis: Suboptimal exam to evaluate for abscess without IV
   contrast. No large abscess in chest, abdomen or pelvis - but limited
   GG nodule and nodules suggest tree-in-[**Male First Name (un) 667**] proximally raise the
   possibiliy of a pulmonary infection.
   - ECHO prelim: No spontaneous echo contrast or thrombus is seen in the
   body of the left atrium/left atrial appendage or the body of the right
   atrium/right atrial appendage. No atrial septal defect is seen by 2D or
   color Doppler. Overall left ventricular systolic function is normal
   (LVEF>55%). No aortic plaque was identified to 47 centimeters from the
   incisors. Right ventricular chamber size and free wall motion are
   normal. A well-seated bioprosthetic aortic valve prosthesis with
   thickened leaflets is present. No masses or vegetations are seen on the
   aortic valve. Moderate to severe (3+) aortic regurgitation is seen. The
   mitral valve appears structurally normal with trivial mitral
   regurgitation. No mass or vegetation is seen on the mitral valve. Mild
   (1+) mitral regurgitation is seen.
   IMPRESSION: Due to presence of thickening of valve leaflets and
   annulus, a focal vegetation or abscess cannot be definitely excluded,
   however no discrete vegetation or abscess is appreciated on the current
   study. Well-seated bioprosthetic aortic valve with moderate to severe
   aortic regurgitation.
   Compared to the previous TEE, performed on [**2163-9-15**], the severity of
   aortic regurgitation and mitral regurgitation appear to have increased
   slightly.
   .
   [**3-2**]:
   - Platelets dropping...
   Allergies:
   Penicillins
   Rash; Shortness
   Shellfish
   Unknown; Shortn
   Last dose of Antibiotics:
   Vancomycin - [**2165-2-28**] 11:00 PM
   Gentamicin - [**2165-3-1**] 01:26 AM
   Ampicillin - [**2165-3-2**] 01:30 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2165-3-1**] 12:04 PM
   Heparin Sodium (Prophylaxis) - [**2165-3-2**] 12:00 AM
   Morphine Sulfate - [**2165-3-2**] 06:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-2**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.4
C (97.5
   HR: 92 (71 - 94) bpm
   BP: 95/52(61) {67/23(36) - 109/53(64)} mmHg
   RR: 27 (13 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,882 mL
                                                                    271 mL
   PO:
             TF:
   IVF:
                                                                  1,882 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,882 mL
                                                                    271 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   77 K/uL
   9.2 g/dL
   92 mg/dL
   16.2 mg/dL
   18 mEq/L
   4.6 mEq/L
   112 mg/dL
   98 mEq/L
   139 mEq/L
   29.4 %
   4.0 K/uL
        [image002.jpg]
                             [**2165-3-1**]  03:33 AM
                             [**2165-3-1**]  02:18 PM
                             [**2165-3-1**]  02:19 PM
                             [**2165-3-2**]  04:00 AM
   WBC
   4.1
   3.2
   4.0
   Hct
   33.9
   26.5
   29.4
   Plt
   83
   83
   77
   Cr
   13.6
   16.2
   TropT
   0.17
   0.21
   Glucose
   93
   92
   Other labs: PT / PTT / INR:14.9/31.1/1.3, CK / CKMB /
   Troponin-T:118/5/0.21, Differential-Neuts:76.0 %, Lymph:18.5 %,
   Mono:4.7 %, Eos:0.5 %, Ca++:8.4 mg/dL, Mg++:2.6 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
 ENDOCARDITIS, BACTERIAL
 CHEST PAIN
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   Assessment and Plan: 34y/o M with a PMH of ESRD secondary to
   glomerulonephritis on HD awaiting transplant, history of recurrent MSSA
   endocarditis on chronic suppressive cephalexin therapy presenting with
   fever, chest pain with associated ECG changes following a recent
   endovascular procedure.
   # Fever/CP
 Multiple blood cultures already returning positive for
   GPC
s in pairs/chains. Fevers to > [**Age over 90 **] yesterday. Concerning for
   recurrent bacteremia [**2-19**] recurrent seeding by infected AV fistula. TTE
   negative for vegetations.
   - Will evaluate with TEE today for valvular vegetations, abscesses, or
   signs of dehiscence of surgically altered coronary anatomy.
   - Will continue vancomycin & gentamicin for empiric coverage
   - Gent trough 20 hrs post dose, goal level: 2
   - Evaluate L AVF and vascular flow in arm by Ultrasound in AM
   - Blood cultures so far showing GPC
   - follow on telemetry
   - ID consultation
   # Chest pain: With ECG changes and cardiac enzyme elevation, concern
   for ischemic injury. Less likely acute atheromatous plaque rupture,
   given prior negative workup and young age, per cards. ECG changes may
   also be consistent with loss of integrity of aortic valve or disruption
   of coronary (LM).
   - Cycle CE, expecting elevated troponins in setting of ESRD
   - C/w ASA, statin
   - telemetry
   - Cardiac surgery made aware of patient, no formal consult requested at
   this time
   - Will attempt to coordinate multi-service meeting today (cards, CSurg,
   ID, renal) to discuss therapeutic strategies
   # Hypotension: Hypotensive at baseline. Diastolic BP in 20-30
   overnight, would not give pressors given severe AI and potentially for
   worsening backflow with increased peripheral resistance.
   - will monitor BP
   - holding labetaolol and lisinopril
   # ESRD on HD:
   - continue home meds
   - renal recs appreciated
   # Anemia: from ESRD
   - monitor hct
   # FEN: NPO for TEE
   # PPx: SQ hep TID
   # Communication with HCP: [**Name (NI) **] [**Name (NI) 4239**] h [**Telephone/Fax (1) 11581**], c [**Telephone/Fax (1) 11582**]
   # full code
   # PIV and AV fistula, although fistula likely seeded with bacteria and
   should not be used. Will discuss further vascular access with IR
   # ICU for now
   # Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-3-1**] 03:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-03-02 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2165-3-1**] 09:45 AM
   to assess left AV fistula
 TRANS ESOPHAGEAL ECHO - At [**2165-3-1**] 12:07 PM
   .
   - Fistula u/s:  1) Non-occlusive thrombus seen within the left basilic
   vein within the left forearm. No discrete subcutaneous fluid collection
   identified. 2) Area of stenosis in the AV fistula seen in the mid upper
   arm.
   - Has two PIV, access will be issue (PICC, temp HD line?)
   - BPs consistently 80/40, Hct 33 --> 26 but asymptomatic. Getting IVF
   and PO diet
   - Renal: Okay to do HD through fistula tomorrow, not infected
   - 3/3 bottles from ED now + for enterococcus, [**Last Name (un) **] to Amp. Given PCN
   allergy and last Keflex yesterday morning, undergoing Amp
   desensitization today. Will check Gent trough in AM pre HD and give
   60mg after HD if trough <1. Will start Ampicillin 2G q12h after HD
   tomorrow
   - CT [**Doctor First Name 458**]: Will need Redo/Redo AVR with Dr. [**Last Name (STitle) 5648**] after
   antibiotic treatment.
   - CT abd/pelvis: Suboptimal exam to evaluate for abscess without IV
   contrast. No large abscess in chest, abdomen or pelvis - but limited
   GG nodule and nodules suggest tree-in-[**Male First Name (un) 667**] proximally raise the
   possibiliy of a pulmonary infection.
   - ECHO prelim: No spontaneous echo contrast or thrombus is seen in the
   body of the left atrium/left atrial appendage or the body of the right
   atrium/right atrial appendage. No atrial septal defect is seen by 2D or
   color Doppler. Overall left ventricular systolic function is normal
   (LVEF>55%). No aortic plaque was identified to 47 centimeters from the
   incisors. Right ventricular chamber size and free wall motion are
   normal. A well-seated bioprosthetic aortic valve prosthesis with
   thickened leaflets is present. No masses or vegetations are seen on the
   aortic valve. Moderate to severe (3+) aortic regurgitation is seen. The
   mitral valve appears structurally normal with trivial mitral
   regurgitation. No mass or vegetation is seen on the mitral valve. Mild
   (1+) mitral regurgitation is seen.
   IMPRESSION: Due to presence of thickening of valve leaflets and
   annulus, a focal vegetation or abscess cannot be definitely excluded,
   however no discrete vegetation or abscess is appreciated on the current
   study. Well-seated bioprosthetic aortic valve with moderate to severe
   aortic regurgitation.
   Compared to the previous TEE, performed on [**2163-9-15**], the severity of
   aortic regurgitation and mitral regurgitation appear to have increased
   slightly.
   .
   [**3-2**]:
   - Platelets dropping...
   - Episode of acute SOB this AM w/ wheeze and rhonchi. CXR volume
   overload after IVF ON (although KVOd), responded to EPI pen and
   morphine for symptomatic relief
   - Coughing up blood now
   Allergies:
   Penicillins
   Rash; Shortness
   Shellfish
   Unknown; Shortn
   Last dose of Antibiotics:
   Vancomycin - [**2165-2-28**] 11:00 PM
   Gentamicin - [**2165-3-1**] 01:26 AM
   Ampicillin - [**2165-3-2**] 01:30 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2165-3-1**] 12:04 PM
   Heparin Sodium (Prophylaxis) - [**2165-3-2**] 12:00 AM
   Morphine Sulfate - [**2165-3-2**] 06:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-2**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.5
   HR: 98 (71 - 98) bpm
   BP: 106/54(66) {67/23(36) - 109/54(66)} mmHg
   RR: 24 (13 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,882 mL
                                                                    281 mL
   PO:
             TF:
   IVF:
                                                                  1,882 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,882 mL
                                                                    281 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   77 K/uL
   9.2 g/dL
   92 mg/dL
   16.2 mg/dL
   18 mEq/L
   4.6 mEq/L
   112 mg/dL
   98 mEq/L
   139 mEq/L
   29.4 %
   4.0 K/uL
        [image002.jpg]
                             [**2165-3-1**]  03:33 AM
                             [**2165-3-1**]  02:18 PM
                             [**2165-3-1**]  02:19 PM
                             [**2165-3-2**]  04:00 AM
   WBC
   4.1
   3.2
   4.0
   Hct
   33.9
   26.5
   29.4
   Plt
   83
   83
   77
   Cr
   13.6
   16.2
   TropT
   0.17
   0.21
   Glucose
   93
   92
   Other labs: PT / PTT / INR:14.9/31.1/1.3, CK / CKMB /
   Troponin-T:118/5/0.21, Differential-Neuts:76.0 %, Lymph:18.5 %,
   Mono:4.7 %, Eos:0.5 %, Ca++:8.4 mg/dL, Mg++:2.6 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   34y/o M with a PMH of ESRD secondary to glomerulonephritis on HD
   awaiting transplant, history of recurrent MSSA endocarditis on chronic
   suppressive cephalexin therapy presenting with fever, chest pain with
   associated ECG changes following a recent endovascular procedure.
   # Fever/CP
 Multiple blood cultures already returning positive for
   Vanc/Ampicillin sensitive Enterococcus. Fevers to > [**Age over 90 144**] yesterday.
   Concerning for recurrent bacteremia [**2-19**] recurrent seeding by infected
   AV fistula. TTE negative for vegetations.
   - Will follow-up final read on TEE today for valvular vegetations,
   abscesses, or signs of dehiscence of surgically altered coronary
   anatomy.
   - Will continue ampicillin & gentamicin for empiric coverage; will give
   trial 10% dose of ampicillin given this morning
s ?reaction
   - Otherwise, resume Vanc/Gent
   - Gent trough prior to dialysis, if <1 will go ahead and give ~1mg/kg
   (60mg daily) after hemodialysis
   - follow on telemetry
   - Appreciate infectious disease following
   - Follow-up ID, Renal, Cardiothoracics following
   # Chest pain: With ECG changes and cardiac enzyme elevation, concern
   for ischemic injury. Less likely acute atheromatous plaque rupture,
   given prior negative workup and young age, per cards. ECG changes may
   also be consistent with loss of integrity of aortic valve or disruption
   of coronary (LM).
   - Cycled CE showing mildly elevated troponins in setting of ESRD
   - C/w ASA, statin
   - Telemetry
   - Cardiology made aware of patient, no formal consult requested at this
   time
   - Will attempt to coordinate multi-service management of patient
   (cards, CSurg, ID, renal) to optimize therapeutic strategies
   # Hypotension: Hypotensive at baseline. Diastolic BP in 20-30
   overnight, would not give pressors given severe AI and potentially for
   worsening backflow with increased peripheral resistance.
   - will monitor BP
   - holding labetaolol and lisinopril
   # ESRD on HD:
   - continue home meds
   - Will attempt hemodialysis through AV fistula today
   - renal recs appreciated
   # Anemia: from ESRD
   - monitor hct
   # FEN: Renal diet
   # PPx: SQ hep TID
   # Communication with HCP: [**Name (NI) **] [**Name (NI) 4239**] h [**Telephone/Fax (1) 11581**], c [**Telephone/Fax (1) 11582**]
   # full code
   # PIV and AV fistula, although fistula likely seeded with bacteria and
   should not be used. Will discuss further vascular access with IR
   # ICU for now
   # Full code
 ENDOCARDITIS, BACTERIAL
 CHEST PAIN
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-3-1**] 03:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-03-03 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.9
F - [**2165-3-2**] 12:00 PM
   [**3-2**]:
   - Had Ampicillin challenge at 14:30, premedicated w/Benadryl. No
   change. Went on to have full 2 mg dose.
   - PM labs: fibrinogen normal-to-elevated, hct stable (29.4-> 28.9),
   platelets stable (83->77->109)
   - HD removed 4 liters, breathing better after
   Allergies:
   Penicillins
   Rash; Shortness
   Shellfish
   Unknown; Shortn
   Last dose of Antibiotics:
   Vancomycin - [**2165-2-28**] 11:00 PM
   Ampicillin - [**2165-3-2**] 08:01 PM
   Gentamicin - [**2165-3-2**] 10:02 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-3**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.7
C (99.9
   HR: 91 (86 - 119) bpm
   BP: 104/39(54) {73/28(44) - 111/56(68)} mmHg
   RR: 26 (16 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,530 mL
                                                                    194 mL
   PO:
                                                                    840 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    690 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,470 mL
                                                                    194 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   89 K/uL
   9.1 g/dL
   101 mg/dL
   11.4 mg/dL
   29 mEq/L
   4.0 mEq/L
   63 mg/dL
   98 mEq/L
   144 mEq/L
   28.6 %
   4.2 K/uL
        [image002.jpg]
                             [**2165-3-1**]  03:33 AM
                             [**2165-3-1**]  02:18 PM
                             [**2165-3-1**]  02:19 PM
                             [**2165-3-2**]  04:00 AM
                             [**2165-3-2**]  03:37 PM
                             [**2165-3-3**]  04:38 AM
   WBC
   4.1
   3.2
   4.0
   4.2
   Hct
   33.9
   26.5
   29.4
   28.9
   28.6
   Plt
   83
   83
   77
   109
   89
   Cr
   13.6
   16.2
   9.1
   11.4
   TropT
   0.17
   0.21
   Glucose
   93
   92
   95
   101
   Other labs: PT / PTT / INR:14.0/28.2/1.2, CK / CKMB /
   Troponin-T:118/5/0.21, Differential-Neuts:76.0 %, Lymph:18.5 %,
   Mono:4.7 %, Eos:0.5 %, Fibrinogen:569 mg/dL, Ca++:9.1 mg/dL, Mg++:2.3
   mg/dL, PO4:7.0 mg/dL
   Assessment and Plan
   Assessment and Plan
   34y/o M with a PMH of ESRD secondary to glomerulonephritis on HD
   awaiting transplant, history of recurrent MSSA endocarditis on chronic
   suppressive cephalexin therapy presenting with fever, chest pain with
   associated ECG changes following a recent endovascular procedure.
   # Fever/CP
 Multiple blood cultures already returning positive for
   Vanc/Ampicillin sensitive Enterococcus. Fevers to > [**Age over 90 144**] yesterday.
   Concerning for recurrent bacteremia [**2-19**] recurrent seeding by infected
   AV fistula. TTE negative for vegetations.
   - Will follow-up final read on TEE today for valvular vegetations,
   abscesses, or signs of dehiscence of surgically altered coronary
   anatomy.
   - Will continue ampicillin & gentamicin for empiric coverage; will give
   trial 10% dose of ampicillin given this morning
s ?reaction
   - Otherwise, resume Vanc/Gent
   - Gent trough prior to dialysis, if <1 will go ahead and give ~1mg/kg
   (60mg daily) after hemodialysis
   - follow on telemetry
   - Appreciate infectious disease following
   - Follow-up ID, Renal, Cardiothoracics following
   # Chest pain: With ECG changes and cardiac enzyme elevation, concern
   for ischemic injury. Less likely acute atheromatous plaque rupture,
   given prior negative workup and young age, per cards. ECG changes may
   also be consistent with loss of integrity of aortic valve or disruption
   of coronary (LM).
   - Cycled CE showing mildly elevated troponins in setting of ESRD
   - C/w ASA, statin
   - Telemetry
   - Cardiology made aware of patient, no formal consult requested at this
   time
   - Will attempt to coordinate multi-service management of patient
   (cards, CSurg, ID, renal) to optimize therapeutic strategies
   # Hypotension: Hypotensive at baseline. Diastolic BP in 20-30
   overnight, would not give pressors given severe AI and potentially for
   worsening backflow with increased peripheral resistance.
   - will monitor BP
   - holding labetaolol and lisinopril
   # ESRD on HD:
   - continue home meds
   - Will attempt hemodialysis through AV fistula today
   - renal recs appreciated
   # Anemia: from ESRD
   - monitor hct
   # FEN: Renal diet
   # PPx: SQ hep TID
   # Communication with HCP: [**Name (NI) **] [**Name (NI) 4239**] h [**Telephone/Fax (1) 11581**], c [**Telephone/Fax (1) 11582**]
   # full code
   # PIV and AV fistula, although fistula likely seeded with bacteria and
   should not be used. Will discuss further vascular access with IR
   # ICU for now
   # Full code
 ENDOCARDITIS, BACTERIAL
 CHEST PAIN
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-3-1**] 03:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-03-03 10:09:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: enterococcus bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.9
F - [**2165-3-2**] 12:00 PM
   -dialysis took off 4L
   -tolerated ampicillin yesterday
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Rash; Shortness
   Shellfish
   Unknown; Shortn
   Last dose of Antibiotics:
   Vancomycin - [**2165-2-28**] 11:00 PM
   Gentamicin - [**2165-3-2**] 10:02 PM
   Ampicillin - [**2165-3-3**] 08:09 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-3**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.7
C (99.9
   HR: 100 (86 - 119) bpm
   BP: 86/25(39) {73/25(39) - 108/48(59)} mmHg
   RR: 18 (16 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  1,530 mL
                                                                    680 mL
   PO:
                                                                    840 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    690 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,470 mL
                                                                    680 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   89 K/uL
   101 mg/dL
   11.4 mg/dL
   29 mEq/L
   4.0 mEq/L
   63 mg/dL
   98 mEq/L
   144 mEq/L
   28.6 %
   4.2 K/uL
        [image002.jpg]
                             [**2165-3-1**]  03:33 AM
                             [**2165-3-1**]  02:18 PM
                             [**2165-3-1**]  02:19 PM
                             [**2165-3-2**]  04:00 AM
                             [**2165-3-2**]  03:37 PM
                             [**2165-3-3**]  04:38 AM
   WBC
   4.1
   3.2
   4.0
   4.2
   Hct
   33.9
   26.5
   29.4
   28.9
   28.6
   Plt
   83
   83
   77
   109
   89
   Cr
   13.6
   16.2
   9.1
   11.4
   TropT
   0.17
   0.21
   Glucose
   93
   92
   95
   101
   Other labs: PT / PTT / INR:14.0/28.2/1.2, CK / CKMB /
   Troponin-T:118/5/0.21, Differential-Neuts:76.0 %, Lymph:18.5 %,
   Mono:4.7 %, Eos:0.5 %, Fibrinogen:569 mg/dL, Ca++:9.1 mg/dL, Mg++:2.3
   mg/dL, PO4:7.0 mg/dL
   34M h/o ESRD secondary to glomerulonephritis on HD awaiting transplant,
   h/o recurrent MSSA endocarditis on chronic suppressive cephalexin
   therapy presents with sepsis, enterococcus from blood and worsening
   AI.
   # Fever/sepsis
   - Enterococcus growing out from BCx- Vanc, Amp sensitive
   - fistula u/s did not reveal as likely source
   - TEE no vegetations, no abscess, worsening of AI, now 3+
   - Will continue vancomycin
   - Amp desensitization in process
   # Chest pain
   - No further CP
   - EKG at baseline
   # Hypotension:
   -resolved - at baseline
   - holding labetaolol and lisinopril
   #Desensitization
   -went well last night.  No adverse sx noted
   #ESRD on HD:
   - continue home meds
   - dialysis yesterday
   # h/o AVR, now with worsening AI
   #hemoptysis
   -INR 1.2, plt mod [**Month (only) 38**]
   -likely related to CHF with severe AI, mod MR
   # Access
   - PIV and AV fistula
   - surveillance cx pending - once cleared, PICC or CVL
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-3-1**] 03:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: